US08865942B2
In a 300 ml nitrogen-substituted flask, 21.6 g (0.153 mol) of 2,2,6,6-tetramethylpiperidine was dissolved in 130 ml of THF. Then, to the resulting solution, 96 ml (0.153 mol) of a 15% solution of n-butyllithium in hexane was added dropwise at −10° C. to prepare lithium 2,2,6,6-tetramethylpiperidide. This solution was cooled to −78° C., and then 67 ml (0.291 mol) of triisopropoxyborane was added dropwise thereto. Next, 15 g (0.146 mol) of benzonitrile was added dropwise, and then the resulting solution was aged for 2 hours at the same temperature. The temperature of the reaction solution was increased to room temperature, and then the solution was hydrolyzed by 225 ml of 2N HCl. The solution was charged with 150 ml of ethyl acetate and stirred, and then the acid phase (pH<1) was separated. The aqueous phase was extracted with 105 ml of ethyl acetate. Then, the two organic phases were mixed and washed with 90 ml of saturated brine. The resulting organic phase was then dried with anhydrous magnesium sulfate and concentrated using an evaporator. The concentrated solution was charged with 100 ml of dichloromethane, and then the solution was charged with 50 ml of hexane at 0° C. The precipitated crystals were filtered and dried to obtain 7.3 g of 2-cyanophenylboronic acid crystals. The purity of the 2-cyanophenylboronic acid was 98.7%, in which 0.3 mol % of 1-phenyl-1-(2,2,6,6-tetramethylpiperidin-1-yl)methyl imine was included.

reactant | 2,2,6,6-tetramethylpiperidine | 0.153 mol, 21.6 g | CC1(NC(CCC1)(C)C)C | C9H19N
reactant | n-butyllithium | C(CCC)[Li]
reactant | lithium 2,2,6,6-tetramethylpiperidide | [Li]N1C(CCCC1(C)C)(C)C
reactant | triisopropoxyborane | 0.291 mol, 67 ml | C(C)(C)OB(OC(C)C)OC(C)C | C9H21BO3
reactant | benzonitrile | 0.146 mol, 15 g | C(C1=CC=CC=C1)#N | C7H5N
reactant | HCl | 2N, 225 ml | Cl | ClH
solvent | THF | 130 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
product | 2-cyanophenylboronic acid | 7.3 g | C(#N)C1=C(C=CC=C1)B(O)O | C7H6BNO2
